US04654177
Into a 2-liter round bottom flask were charged 612 g of barium sulfite and 1 liter of deionized water. After the atmosphere within the flask was replaced by oxygen with stirring of its contents, 72 g of sulfur dioxide was blown therethrough. After that, 105 g of α-methylstyrene was added thereto and the resulting mixture was reacted at 30° C. for 5 hours with stirring at a speed of 1,000 rpm. Thereafter, the reaction mixture was worked up in all the same manner as in Example 1 to obtain 227 g (90% yield) of 2-phenyl-2-hydroxypropanesulfonic acid barium salt.

reactant | barium sulfite | 612 g | S(=O)([O-])[O-].[Ba+2]
reactant | oxygen | O=O | O2
reactant | sulfur dioxide | 72 g | S(=O)=O | O2S
reactant | α-methylstyrene | 105 g | CC(=C)C1=CC=CC=C1 | C9H10
solvent | water | 1 liter | O | H2O
product | 2-phenyl-2-hydroxypropanesulfonic acid barium salt | 227 g, 90% yield | [Ba+2].C1(=CC=CC=C1)C(CS(=O)(=O)[O-])(C)O.C1(=CC=CC=C1)C(CS(=O)(=O)[O-])(C)O | InChI=1S/2C9H12O4S.Ba/c2*1-9(10,7-14(11,12)13)8-5-3-2-4-6-8;/h2*2-6,10H,7H2,1H3,(H,11,12,13);/q;;+2/p-2
